US04043993
Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serinamide
Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine methyl ester (0.5 g.) is dissolved in methanol, 25 ml., and the solution saturated with gaseous ammonia. The reaction is let stand for three days at room temperature, and the solvent then removed by evaporation.

reactant | Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine methyl ester | 0.5 g | COC([C@@H](NC([C@@H](NC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O)=O)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)COCC1=CC=CC=C1)=O | C53H62N6O10
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serinamide | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=C(C=C3)OCC3=CC=CC=C3)C(=O)N[C@@H](COCC3=CC=CC=C3)C(=O)N)CCC2)CCC1 | C52H61N7O9
